US05011944
6,7-Bis-trifluoromethyl-1,4-naphthoquinone
23.47 g (0.1011 mol) of 4,5-bis-trifluoromethyl-2-oxo-2H-pyran, 54.62 g (0.5053 mol) of 1,4-benzoquinone and 26.30 g (0.3026 mol) of MnO2 in 225 ml of 1,2-dichlorobenzene are heated at 180° C. for 12 hours. The reaction mixture is then diluted with 200 ml of CHCl3 and filtered through Hyflo®. After the chloroform has been removed by distillation, the distillation residue is chromatographed over a column packed with 1300 g of SiO2 (mobile phase: first cyclohexane and then CHCl3 ; 0.3 bar excess pressure). Yield 17.94 g (60.3%), melting point: 91°-94° C.

reactant | 4,5-bis-trifluoromethyl-2-oxo-2H-pyran | 0.1011 mol, 23.47 g | FC(C1=CC(OC=C1C(F)(F)F)=O)(F)F | C7H2F6O2
reactant | 1,4-benzoquinone | 0.5053 mol, 54.62 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | 1,2-dichlorobenzene | 225 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 0.3026 mol, 26.30 g | O=[Mn]=O
product | 6,7-Bis-trifluoromethyl-1,4-naphthoquinone | FC(C=1C=C2C(C=CC(C2=CC1C(F)(F)F)=O)=O)(F)F | C12H4F6O2
